US09255108B2
To a solution of 3-methylisothiazole-4-carboxylic acid (C-4) (3.9 g, 27.3 mmol) in anhydrous THF (150 mL) at −78° C. under argon, n-butyl lithium solution (27.3 mL, 68.3 mmol) is added dropwise and the resulting mixture is stirred at −78° C. for 1 h. To this mixture, a solution of iodine (13.9 g, 54.6 mmol) in THF (50 mL) is added slowly and the resulting mixture is stirred at RT for 1 h. The mixture is acidified with concentrated HCl to adjust the pH to 3-4, and then extracted with ethyl acetate. The organic layer is washed with aqueous Na2SO3 solution. The aqueous layer is extracted with ethyl acetate. The combined organic layers are washed with brine, dried over Na2SO4 and filtered. The filtrate is concentrated in vacuo to afford the product, 5-iodo-3-methylisothiazole-4-carboxylic acid (C-5).

reactant | 3-methylisothiazole-4-carboxylic acid | 27.3 mmol, 3.9 g | CC1=NSC=C1C(=O)O | C5H5NO2S
reactant | n-butyl lithium | 68.3 mmol, 27.3 mL | C(CCC)[Li]
reactant | iodine | 54.6 mmol, 13.9 g | II | I2
reactant | HCl | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-iodo-3-methylisothiazole-4-carboxylic acid | IC1=C(C(=NS1)C)C(=O)O | C5H4INO2S
